US05126335
(c) 2-(4-Tetrahydrothiapyranylidene)-3-oxo-4-chlorobutyric acid, methyl ester.
Tetrahydrothiapyran-4-carboxaldehyde (1.5g) in ethyl acetate (10 ml) was treated with methyl-4-chloroacetoacetate (1.5g), 4A sieve (3g) and the mixture cooled in an ice-bath. Piperidine (3 drops) and acetic acid (3 drops) were now added and the mixture stirred at 0-5° for 45 min. Excess ethyl acetate was added and the organic solution washed with 1M hydrochloric acid. After washing the extracts with water they were dried over anhydrous magnesium sulphate and evaporated to give a colourless oil. Chromatography o silica gel using ethyl acetate-hexane mixtures gave the title compound mixture Z/E (1:2)) as a colourless oil (2g). νmax (CHCl3) 1720 and 1630 cm-1 ; δ(CDCl3) inter alia 3.82(s) and 3.87(s), 6.84 (d, J=10Hz) and 6.94 (d, J™10Hz) m/e 262 (M+).

reactant | Tetrahydrothiapyran-4-carboxaldehyde | 1.5g | S1CCC(CC1)C=O | C6H10OS
reactant | methyl-4-chloroacetoacetate | 1.5g | COC(CC(=O)CCl)=O | C5H7ClO3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Piperidine | 3 drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 2-(4-Tetrahydrothiapyranylidene)-3-oxo-4-chlorobutyric acid, methyl ester | S1CCC(CC1)=C(C(=O)OC)C(CCl)=O | C10H13ClO3S
